US07547699B2
Step 1: (4R,9aR)-7-Bromo-6-hydroxymethyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
To a solution of 5.00 g (4R,9aR)-6-Hydroxymethyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester in 50 ml tetrahydrofuran was added at 0°° C. 2.75 g N-bromosuccinimide at once and the mixture was stirred at 0° C. for 1 h. The reaction mixture was partitioned between 10% sodium thiosulfate and ethyl acetate. The phases were separated and the organic phase was washed with 10% sodium bicarbonate and brine dried over magnesium sulfate and evaporated. The residue was triturated in ca 20 ml heptane:ethyl acetate 1:3 to yield 5.75 g of the title compound as white crystals melting at 110-112° C.

reactant | (4R,9aR)-6-Hydroxymethyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 5.00 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC=C(N=C3N2[C@@H](C1)C)CO | C17H25N3O3
reactant | N-bromosuccinimide | 2.75 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (4R,9aR)-7-Bromo-6-hydroxymethyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 5.75 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC(=C(N=C3N2[C@@H](C1)C)CO)Br | C17H24BrN3O3
